US04545942
2-(p-Chlorophenyl)-4-(2-cyanoethyl)-4-methyl-5-oxazolone
2.8 g of N-(p-chlorobenzoyl)-2-(2-cyanoethyl)alanine and 2.0 g of acetic anhydride were dissolved in 30 ml of benzene and the solution was refluxed for one hour. The solvent was then distilled off and the resulting residue was recrystallized from di-isopropyl ether, to afford 2.1 g of the desired product as a colourless powder melting at 97°-98° C.

reactant | N-(p-chlorobenzoyl)-2-(2-cyanoethyl)alanine | 2.8 g | ClC1=CC=C(C(=O)N[C@@](C)(C(=O)O)CCC#N)C=C1 | C13H13ClN2O3
reactant | acetic anhydride | 2.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-(p-Chlorophenyl)-4-(2-cyanoethyl)-4-methyl-5-oxazolone | 2.1 g | ClC1=CC=C(C=C1)C=1OC(C(N1)(C)CCC#N)=O | C13H11ClN2O2
